US08431695B2
Step 1: Preparation of tert-butyl 4-{4-amino-5-[3-(anilinocarbonyl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidine-1-carboxylate
In a manner similar to the procedure described for the preparation of Example 330 and using tert-butyl 4-{4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidine-1-carboxylate and (3-phenylaminocarbonylphenyl)boronic acid as starting material, 334 mg (96%) of the desired product was isolated. LC-MS m/z [M+H]+ 513.2, RT 3.13 min.

reactant | tert-butyl 4-{4-amino-5-bromopyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidine-1-carboxylate | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)OC(C)(C)C)Br | C16H22BrN5O2
reactant | (3-phenylaminocarbonylphenyl)boronic acid | C1(=CC=CC=C1)NC(=O)C=1C=C(C=CC1)B(O)O | C13H12BNO3
product | tert-butyl 4-{4-amino-5-[3-(anilinocarbonyl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidine-1-carboxylate | 334 mg, 96% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)OC(C)(C)C)C2=CC(=CC=C2)C(=O)NC2=CC=CC=C2 | C29H32N6O3
